US06090852
(b) N-Hydroxy 2-({methyl-[3-(2-methylbiphen-4-yl)-trans-prop-2-enyl]amino}-sulfonyl)acetamide
In a manner similar to Example 1 (b), methyl 2-({methyl-[3-(2-methylbiphen-4-yl)-trans-prop-2-enyl]amino}sulfonyl)acetate was reacted with hydroxylamine to give the titled compound as a colourless solid.

reactant | methyl 2-({methyl-[3-(2-methylbiphen-4-yl)-trans-prop-2-enyl]amino}sulfonyl)acetate | CN(S(=O)(=O)CC(=O)OC)C\C=C\C1=CC=C(C(=C1)C)C1=CC=CC=C1 | C20H23NO4S
reactant | hydroxylamine | NO | H3NO
product | N-Hydroxy 2-({methyl-[3-(2-methylbiphen-4-yl)-trans-prop-2-enyl]amino}-sulfonyl)acetamide | ONC(CS(=O)(=O)N(C\C=C\C1=CC=C(C(=C1)C)C1=CC=CC=C1)C)=O | C19H22N2O4S
